* A:\my_projects_Tamisi_Radu\MEMS_Accelerometer_SCCS\SW_tb\mosSW.asc
M1 N002 N001 N003 0 NMOS l=180n w=1u m=10
V1 N001 0 1.8
V2 N002 N003 10m
Vin N003 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tamis\OneDrive\Documente\LTspiceXVII\lib\cmp\standard.mos
.dc Vin 0 2 0.01
.backanno
.end
