* A:\my_projects_Tamisi_Radu\MEMS_Accelerometer_SCCS\SW_nmos\Nmos\mosSW.asc
M1 N002 N001 N003 0 nch l=180n w=1u
V1 N001 0 1.8
V2 N002 N003 10m
Vin N003 0 400m
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\tamis\OneDrive\Documente\LTspiceXVII\lib\cmp\standard.mos
.dc Vin 0 2 0.01
.lib 'log018_no1f.l' TT
.backanno
.end
